US04450275
3 g of L-proline and 2 g of sodium hydrogen carbonate are added to 120 ml of water whereupon 3.5 g of 3-(4-chloro-3-sulfamoylbenzoylthio)-2(S)-methylpropionyl chloride is addedslowly under ice-cooling and stirring, and the resulting mixture is stirredat room temperature for 3 hours. The reaction mixture is then treated in ananalogous manner of Example 1 to give 1-[3-(4-chloro-3-sulfamoylbenzoylthio)-2(S)-methylpropionyl]-L-proline as white non-crystalline powder, [α]D25 -102.3 (methanol).

reactant | L-proline | 3 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | sodium hydrogen carbonate | 2 g | C(O)([O-])=O.[Na+]
reactant | water | 120 ml | O | H2O
reactant | 3-(4-chloro-3-sulfamoylbenzoylthio)-2(S)-methylpropionyl chloride | 3.5 g | ClC1=C(C=C(C(=O)SC[C@@H](C(=O)Cl)C)C=C1)S(N)(=O)=O | C11H11Cl2NO4S2
solvent | methanol | CO | CH4O
product | 1-[3-(4-chloro-3-sulfamoylbenzoylthio)-2(S)-methylpropionyl]-L-proline | ClC1=C(C=C(C(=O)SC[C@H](C(=O)N2[C@H](C(=O)O)CCC2)C)C=C1)S(N)(=O)=O | C16H19ClN2O6S2
